US03996354
A solution of 1,3-dihydro-1'-dimethylphosphinylmethyl-6-methoxy-3-phenylspiro[isobenzofuran-1,4'-piperidine] and 48% hydrobromic acid is heated under reflux, cooled, diluted with water, neutralized with sodium bicarbonate and extracted with chloroform. The chloroform solution is dried and the chloroform evaporated off, affording 1,3-dihydro-1'-dimethylphosphinylmethyl-6-hydroxy-3-phenylspiro[isobenzofuran-1,4'-piperidine]. In an analogous manner, 1,3-dihydro-1'-dimethylphosphinylmethyl-5-methoxy-3-phenylspiro[isobenzofuran-1,4'-piperidine] and 1,3-dihydro-1'-dimethylphosphinylmethyl-3-(4-methoxyphenyl)spiro[isobenzofuran-1,4'-piperidine] are treated to provide 1,3-dihydro-1'-dimethylphosphinylmethyl-5-hydroxy-3-phenylspiro[isobenzofuran-1,4'-piperidine] and 1,3-dimethylphosphinylmethyl-3-(4-hydroxyphenyl)spiro[isobenzofuran-1,4'-piperidine], respectively.

reactant | 1,3-dihydro-1'-dimethylphosphinylmethyl-6-methoxy-3-phenylspiro[isobenzofuran-1,4'-piperidine] | CP(=O)(C)CN1CCC2(CC1)OC(C1=CC=C(C=C12)OC)C1=CC=CC=C1 | C22H28NO3P
reactant | hydrobromic acid | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 1,3-dihydro-1'-dimethylphosphinylmethyl-6-hydroxy-3-phenylspiro[isobenzofuran-1,4'-piperidine] | CP(=O)(C)CN1CCC2(CC1)OC(C1=CC=C(C=C12)O)C1=CC=CC=C1 | C21H26NO3P
